US04517195
5-(2-Chlorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]triazepin-2(3H)-one
A solution containing 1-(N-methyl-aminoacetamido)-2-(2-chlorobenzoyl)pyrrole hydrobromide (12.6 g, 43.4 mmol) and glacial acetic acid (15 g, 0.25 mol) in 100 ml of isopropanol was refluxed under nitrogen for 12 hours and thereafter evaporated to an oil. This oil was flash chromatographed (silica, 4:1 ethyl acetate-hexane) to give 3.2 g (27%) of crystals, m.p. 132°-134°. This was combined with 0.5 g from an earlier run and recrystallized from acetone to give 3.5 g of crystals, m.p. 132°-133.5°.

reactant | 1-(N-methyl-aminoacetamido)-2-(2-chlorobenzoyl)pyrrole hydrobromide | 43.4 mmol, 12.6 g | Br.CN(C(CN)=O)N1C(=CC=C1)C(C1=C(C=CC=C1)Cl)=O
reactant | acetic acid | 0.25 mol, 15 g | C(C)(=O)O | C2H4O2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 5-(2-Chlorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]triazepin-2(3H)-one | 3.2 g, 27% | ClC1=C(C=CC=C1)C=1C=2N(N(C(CN1)=O)C)C=CC2 | C14H12ClN3O
